US20010007764A1
Boc-D-norLeu-OMe
H-D-norLeu-OMe.HCl (12.9 g) was dissolved in 200 ml of dry methanol followed by addition of di-tert-butyl dicarbonate (15.5 g) and triethylamine (19.8 ml). The reaction was stirred for 3h at room temperature after which the mixture was concentrated in vacuo. Next, the residue was dissolved in ethyl acetate and washed with water. The product was chromatographed on silica using heptane/ethyl acetate 3/1 v/v . Yield: 16.9 g. TLC: Rf =0.55, silica gel, heptane/ethyl acetate 3/1 v/v .

reactant | H-D-norLeu-OMe.HCl | 12.9 g | N[C@H](CCCC)C(=O)OC.Cl
reactant | di-tert-butyl dicarbonate | 15.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 19.8 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 200 ml | CO | CH4O
product | Boc-D-norLeu-OMe | N([C@H](CCCC)C(=O)OC)C(=O)OC(C)(C)C | C12H23NO4
